US07067510B2
Add BBr3 (0.3 mL) dropwise to a stirred solution of [6-methoxy-2-(2-methoxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (650 mg, 1.28 mmol) in CH2Cl2 (15 mL) at room temperature. Stir for 1 h and add an additional aliquot of BBr3 (0.2 mL). Continue stirring for 1 h and quench with MeOH and 2-methyl-2-butene. Load the resulting solution on an SCX cartridge, wash with MeOH and elute with 2M NH3/MeOH. Purify the resulting product by flash chromatography (0–5% (2M NH3 in MeOH)/CH2Cl2) to afford [6-hydroxy-2-(2-hydroxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (161 mg, 26%).

reactant | BBr3 | 0.3 mL | B(Br)(Br)Br | BBr3
reactant | [6-methoxy-2-(2-methoxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.28 mmol, 650 mg | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)CC1=C(C=CC=C1)OC | C33H35NO4
reactant | BBr3 | 0.2 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | [6-hydroxy-2-(2-hydroxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 161 mg, 26% | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)CC1=C(C=CC=C1)O | C31H31NO4
